US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile was treated with 1-(2-methylsulfanyl-phenyl)-piperazine in dioxane in the presence of N-ethyl-diisopropylamine at 60° C. to yield the 2,4-bis-(2-hydroxy-ethylamino)-6-[4-(2-methylsulfanyl-phenyl)-piperazin-1-yl]-pyrimidine-5-carbonitrile as a yellowish lyophilisate; MS: [M+H]+=430.

reactant | 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCCO | C9H12ClN5O2
reactant | 1-(2-methylsulfanyl-phenyl)-piperazine | CSC1=C(C=CC=C1)N1CCNCC1 | C11H16N2S
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,4-bis-(2-hydroxy-ethylamino)-6-[4-(2-methylsulfanyl-phenyl)-piperazin-1-yl]-pyrimidine-5-carbonitrile | OCCNC1=NC(=C(C(=N1)NCCO)C#N)N1CCN(CC1)C1=C(C=CC=C1)SC | C20H27N7O2S
